US04075001
A mixture of 6.8 g of 1-methyl-3-(4-cyano-3-(ethylmethylamino)-5-isothiazolyl)urea and 20 ml of concentrated sulfuric acid was prepared by addition of small portions of the isothiazolylurea to the rapidly stirred sulfuric acid during a 15 minute period at ambient temperature. Stirring of the mixture was continued until a homogeneous solution was obtained. The solution was heated at 50° in a thermostated water bath for 1 hour. The reaction mixture was poured into 200 ml of ice-water and the resulting slurry was made strongly basic (pH 14) by addition of concentrated ammonium hydroxide. The temperature was maintained at 0° by addition of the ice during the pH adjustment process. The solid was collected by filtration and the filter cake dried. The solid was recrystallized from ethyl acetate to yield 4.4 g of 1-methyl-3-(4-carbamoyl-3-(ethylmethylamino)-5-isothiazolyl)urea, mp 165°-168°. The ir and nmr spectra were consistent with the assigned structure.

reactant | 1-methyl-3-(4-cyano-3-(ethylmethylamino)-5-isothiazolyl)urea | 6.8 g | CNC(=O)NC1=C(C(=NS1)N(C)CC)C#N | C9H13N5OS
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | isothiazolylurea | S1N=C(C=C1)NC(=O)N | C4H5N3OS
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 1-methyl-3-(4-carbamoyl-3-(ethylmethylamino)-5-isothiazolyl)urea | 4.4 g | CNC(=O)NC1=C(C(=NS1)N(C)CC)C(N)=O | C9H15N5O2S
